US08871753B2
Step A: 2-Chloro-N-(3-iodophenyl)pyrimidin-4-amine
A solution of 2,4-dichloropyrimidine (3.0 g, 20 mmol) and N,N-diisopropylethylamine (4.2 mL, 24 mmol) in N-methylpyrrolidinone (20 mL) was treated with 3-iodoaniline (2.4 mL, 20 mmol) dropwise and heated at 120° C. for 2 h. The reaction mixture was concentrated, diluted with ethyl acetate (150 mL), and washed with water (150 mL). The aqueous layer was separated and extracted with ethyl acetate (150 mL). The combined organic extracts were washed with brine (100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to a crude oil. This material was purified by flash column chromatography to give the desired product (3.2 mg, 48%) as a tan solid. LCMS for C10H8ClIN3 (M+H)+: m/z=331.9.

reactant | 2,4-dichloropyrimidine | 20 mmol, 3.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | N,N-diisopropylethylamine | 24 mmol, 4.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-iodoaniline | 20 mmol, 2.4 mL | IC=1C=C(N)C=CC1 | C6H6IN
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Chloro-N-(3-iodophenyl)pyrimidin-4-amine | 3.2 mg, 48% | ClC1=NC=CC(=N1)NC1=CC(=CC=C1)I | C10H7ClIN3
